US07585886B2
At room temperature, WSC hydrochloride, HOBt, tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate and triethylamine were added in that order to a mixture of monomethyl terephthalate and dichloromethane and stirred for 7.5Hours. Monomethyl terephthalate was further added thereto and stirred for 16Hours, and then work-up and purification were carried out in the standard method to obtain methyl 4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}benzoate. FP: 593.

reactant | WSC hydrochloride | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
reactant | monomethyl terephthalate | C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | methyl 4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}benzoate | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)C1=CC=C(C(=O)OC)C=C1 | C37H40N2O5
